US04692449
5,8-Quinoxalinedione
A 9.2 g portion of 5,8-dihydroxyquinoxaline in 300 ml of p-dioxane was heated at reflux with 16.2 g of silver oxide for 6 hours. The mixture was cooled, then filtered and the filtrate concentrated in vacuo. The residue was slurried with 75 ml of acetone, cooled and the solid collected, washed with acetone and dried, giving 8.0 g of the desired product, mp 172°-173° C.

reactant | 5,8-dihydroxyquinoxaline | OC1=C2N=CC=NC2=C(C=C1)O | C8H6N2O2
solvent | p-dioxane | 300 ml | O1CCOCC1 | C4H8O2
catalyst | silver oxide | 16.2 g | [Ag]=O
product | 5,8-Quinoxalinedione | 8.0 g | N1=CC=NC=2C(C=CC(C12)=O)=O | C8H4N2O2
